US07851473B2
(2) N-Isoxazolo[5,4-b]pyridin-3-yl-4-(3-phenyl-1,2,4-thiadiazol-5-yl)piperazine-1-carboxamide
A mixture of 1-(3-phenyl-1,2,4-thiadiazol-5-yl)piperazine (738 mg, 3.00 mmol), bis(2,2,2-trichloroethyl) isoxazolo[5,4-b]pyridin-3-ylimidodicarbonate (486 mg, 1.00 mmol), diisopropylethylamine (0.348 ml, 2.00 mmol) and dimethyl sulfoxide (5 ml) was stirred at 70° C. for 5 hours. The reaction mixture was poured to water and extracted with ethyl acetate. The extract was washed with water and dried over anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure, and the residue was recrystallized from tetrahydrofuran to yield 240 mg (59.0%) of the desired product.

reactant | 1-(3-phenyl-1,2,4-thiadiazol-5-yl)piperazine | 3.00 mmol, 738 mg | C1(=CC=CC=C1)C1=NSC(=N1)N1CCNCC1 | C12H14N4S
reactant | bis(2,2,2-trichloroethyl) isoxazolo[5,4-b]pyridin-3-ylimidodicarbonate | 1.00 mmol, 486 mg | O1N=C(C=2C1=NC=CC2)N(C(=O)OCC(Cl)(Cl)Cl)C(=O)OCC(Cl)(Cl)Cl | C12H7Cl6N3O5
reactant | diisopropylethylamine | 2.00 mmol, 0.348 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | dimethyl sulfoxide | 5 ml | CS(=O)C | C2H6OS
solvent | water | O | H2O
product | N-Isoxazolo[5,4-b]pyridin-3-yl-4-(3-phenyl-1,2,4-thiadiazol-5-yl)piperazine-1-carboxamide | 240 mg, 59.0% | O1N=C(C=2C1=NC=CC2)NC(=O)N2CCN(CC2)C2=NC(=NS2)C2=CC=CC=C2 | C19H17N7O2S
